US04435567
A mixture of 1.1 g benzylamine and 5 ml aceton was added dropwise to a suspension of 1.5 g phenylcarbamoyl-benzoic acid sulfimide with 20 ml aceton, under stirring. The reaction mixture was stirred for 35 minutes at room temperature, then diluted with 150 ml water and cooled to 5° C. The precipitated solid product was filtered, washed with water and dried. 1.02 g 1-phenyl-3-benzylurea was obtained with a melting point of from 170° to 172° C.

reactant | benzylamine | 1.1 g | C(C1=CC=CC=C1)N | C7H9N
reactant | aceton | 5 ml | CC(=O)C | C3H6O
reactant | phenylcarbamoyl-benzoic acid sulfimide | 1.5 g | [SH2]=N.C1(=CC=CC=C1)NC(=O)C1=C(C(=O)O)C=CC=C1
reactant | aceton | 20 ml | CC(=O)C | C3H6O
solvent | water | 150 ml | O | H2O
product | 1-phenyl-3-benzylurea | 1.02 g | C1(=CC=CC=C1)NC(=O)NCC1=CC=CC=C1 | C14H14N2O
